US04052511
1-(3-Carboxypropanoyl)-L-proline
Succinic anhydride (67 mmoles, 6.7 g.) is dissolved in 100 ml. of hot glacial acetic acid and cooled to room temperature. To this, while stirring (67 mmoles, 7.7 g.) L-proline is added. After 20 hours at room temperature, the reaction mixture is concentrated to dryness in vacuo. The residue is extracted three times with hot ethyl acetate and cooled to room temperature. To the pooled extracts containing the 1-(3-carboxypropanoyl)-L-proline, dicyclohexylamine is added and crystals form which are recrystallized from hot isopropanol, yield 11.3 g. The dicyclohexylamine salt has m.p. (170) 175°-177°.

reactant | Succinic anhydride | 67 mmoles, 6.7 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | L-proline | 67 mmoles, 7.7 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxypropanoyl)-L-proline | C(=O)(O)CCC(=O)N1[C@H](C(=O)O)CCC1 | C9H13NO5
